US07012074B2
(c) 4-(3-Butenyloxy)benzonitrile
4-Cyanophenol (30 g, 250 mmol) was mixed with K2CO3 (72.5 g, 525 mmol) and stirred for 60 minutes. 4-Bromo-1-butene (50 g, 370 mmol) was added dropwise. The reaction mixture was stirred at 60° C. overnight. The solids were filtered off and the solvents were evaporated. The residue was dissolved in DCM. and washed with 1 N NaOH. The organic layer was separated, dried (Na2SO4) and evaporated to give 37 g (58%) of the sub-title compound.

reactant | 4-Cyanophenol | 250 mmol, 30 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | 525 mmol, 72.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-Bromo-1-butene | 370 mmol, 50 g | BrCCC=C | C4H7Br
product | 4-(3-Butenyloxy)benzonitrile | 37 g, 58% | C(CC=C)OC1=CC=C(C#N)C=C1 | C11H11NO
